US09278985B2
Methyl 4-amino-3-chloro-5-fluoro-6-(7-fluoro-1H-indol-6-yl)picolinate (Compound No. 1.14)
Methyl 4-amino-3,6-dichloro-5-fluoropicolinate (0.650 g, 2.72 mmol), 7-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (0.817 g, 3.13 mmol), bis(triphenylphosphine)palladium(II) chloride (0.191 g, 0.272 mmol), and cesium fluoride (0.826 g, 5.44 mmol, Note: potassium fluoride replaced cesium fluoride in some examples that refer to this particular example) were combined in acetonitrile (4.53 mL) and water (4.53 mL). The reaction mixture was irradiated in a Biotage Initiator microwave at 110° C. in a sealed vial for 30 min. The cooled reaction mixture was partitioned between ethyl acetate and water. The organic phase was dried and concentrated. The product was purified by flash chromatography (SiO2; eluting with 5-40% ethyl acetate in hexanes) to provide the title compound as an white solid (0.517 g, 52.4% yield).

reactant | Methyl 4-amino-3,6-dichloro-5-fluoropicolinate | 2.72 mmol, 0.650 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C7H5Cl2FN2O2
reactant | 7-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 3.13 mmol, 0.817 g | FC=1C(=CC=C2C=CNC12)B1OC(C(O1)(C)C)(C)C | C14H17BFNO2
reactant | cesium fluoride | [F-].[Cs+]
reactant | potassium fluoride | [F-].[K+]
solvent | acetonitrile | 4.53 mL | C(C)#N | C2H3N
solvent | water | 4.53 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.272 mmol, 0.191 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-amino-3-chloro-5-fluoro-6-(7-fluoro-1H-indol-6-yl)picolinate | 0.517 g, 52.4% yield | NC1=C(C(=NC(=C1F)C1=CC=C2C=CNC2=C1F)C(=O)OC)Cl | C15H10ClF2N3O2
